US07776897B2
1-Cyclohexylcyclopentanecarbonitrile and diisobutylaluminum hydride were reacted in toluene at −78° C. and then the residue and sodium hypochlorite were reacted in a mixed solvent of tert-butanol and THF at room temperature in the presence of 2-methyl-2-butene to obtain 1-cyclohexylcyclopentanecarboxylic acid.

reactant | 1-Cyclohexylcyclopentanecarbonitrile | C1(CCCCC1)C1(CCCC1)C#N | C12H19N
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
reactant | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 1-cyclohexylcyclopentanecarboxylic acid | C1(CCCCC1)C1(CCCC1)C(=O)O | C12H20O2
